US07452911B2
9c 5-(4-chloro-phenyl)-2-[3-methyl-3-(4-pyrrolidin-1-ylmethyl-phenoxy)-but-1-ynyl]-pyridine
131 mg (0.5 mmol) triphenylphosphane are added to a solution of 136 mg (0.5 mmol) 4-[5-(4-chloro-phenyl)-pyridin-2-yl]-2-methyl-but-3-yn-2-ol and 88 mg (0.5 mmol) 4-pyrrolidin-1-ylmethyl-phenol in 20 ml THF. Then 0.1 mL (0.5 mmol) diisopropyl azo-dicarboxylate is slowly added dropwise and the reaction mixture is stirred for 24 h at RT. The mixture is evaporated down i.vac., the residue is taken up in water, extracted exhaustively with EtOAc, the organic phase is washed with saturated NaCl solution and dried over Na2SO4. After the desiccant and solvent have been eliminated the residue is purified by HPLC.

reactant | triphenylphosphane | 0.5 mmol, 131 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-[5-(4-chloro-phenyl)-pyridin-2-yl]-2-methyl-but-3-yn-2-ol | 0.5 mmol, 136 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC(C)(O)C | C16H14ClNO
reactant | 4-pyrrolidin-1-ylmethyl-phenol | 0.5 mmol, 88 mg | N1(CCCC1)CC1=CC=C(C=C1)O | C11H15NO
reactant | diisopropyl azo-dicarboxylate | 0.5 mmol, 0.1 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 5-(4-chloro-phenyl)-2-[3-methyl-3-(4-pyrrolidin-1-ylmethyl-phenoxy)-but-1-ynyl]-pyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC(C)(OC1=CC=C(C=C1)CN1CCCC1)C | C27H27ClN2O
